US04209527
The procedure described in Example 1 was repeated (using the same molar proportions as before) except that 440 mg. (0.002 mole) of 2-oxo-1-benzimidazolineacetic acid ethyl ester and 353 mg. (0.002 mole) of 2-chloromethylnaphthalene were reacted to afford 583 mg. (81%) of 3-(β-naphthyl)methyl-2-oxo-1-benzimidazolineacetic acid ethyl ester, isolated as an oil.

reactant | 2-oxo-1-benzimidazolineacetic acid ethyl ester | 0.002 mole | C(C)OC(CN1C(NC2=C1C=CC=C2)=O)=O | C11H12N2O3
reactant | 2-chloromethylnaphthalene | 0.002 mole | ClCC1=CC2=CC=CC=C2C=C1 | C11H9Cl
product | 3-(β-naphthyl)methyl-2-oxo-1-benzimidazolineacetic acid ethyl ester | 81% | C(C)OC(CN1C(N(C2=C1C=CC=C2)CC2=CC1=CC=CC=C1C=C2)=O)=O | C22H20N2O3
